US04918073
(c) 4-Bromo-1,1-bis(4-methoxyphenyl)butane
44 g (0.127 mol) of 4-bromo-1,1-bis(4-methoxyphenyl)-butene were dissolved in 160 ml of ethanol, 2.8 g of palladium-on-charcoal (10%) were added and hydrogenation was carried out in a shaking vessel at room temperature in the course of about 2 hours. The catalyst was then filtered off with suction, the filtrate was concentrated and the crude product was purified by fractional distillation. 34.4 g of a fraction were obtained at 220°-226° C./-0.2 mm.

reactant | 4-bromo-1,1-bis(4-methoxyphenyl)-butene | 0.127 mol, 44 g | BrCCC=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C18H19BrO2
solvent | ethanol | 160 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 2.8 g | [Pd] | Pd
product | 4-Bromo-1,1-bis(4-methoxyphenyl)butane | BrCCCC(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C18H21BrO2
